US09056858B2
Synthesis of 1-(4-fluoro-phenyl)-6-methanesulfonyl-1H-indazole-4-carboxylic acid [1-(2-methanesulfonyl-pyridin-4-yl)-cyclopropyl]-amide (26)
The title compound is synthesized according to the coupling procedure described in Example 18 from a mixture of 6-bromo-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid [1-(2-methanesulfonyl-pyridin-4-yl)-cyclopropyl]-amide, and 1-(4-fluoro-phenyl)-6-iodo-1H-indazole-4-carboxylic acid [1-(2-methanesulfonyl-pyridin-4-yl)-cyclopropyl]-amide (100 mg).

reactant | 6-bromo-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid [1-(2-methanesulfonyl-pyridin-4-yl)-cyclopropyl]-amide | CS(=O)(=O)C1=NC=CC(=C1)C1(CC1)NC(=O)C=1C=2C=NN(C2C=C(C1)Br)C1=CC=C(C=C1)F | C23H18BrFN4O3S
reactant | 1-(4-fluoro-phenyl)-6-iodo-1H-indazole-4-carboxylic acid [1-(2-methanesulfonyl-pyridin-4-yl)-cyclopropyl]-amide | 100 mg | CS(=O)(=O)C1=NC=CC(=C1)C1(CC1)NC(=O)C=1C=2C=NN(C2C=C(C1)I)C1=CC=C(C=C1)F | C23H18FIN4O3S
product | 1-(4-fluoro-phenyl)-6-methanesulfonyl-1H-indazole-4-carboxylic acid [1-(2-methanesulfonyl-pyridin-4-yl)-cyclopropyl]-amide | CS(=O)(=O)C1=NC=CC(=C1)C1(CC1)NC(=O)C=1C=2C=NN(C2C=C(C1)S(=O)(=O)C)C1=CC=C(C=C1)F | C24H21FN4O5S2
